US05348727
1,3-Bis-(2,4,6-Triiodophenoxy)-butane
A mixture of triiodophenol (5.78 g, 12.3 mmol) and sodium hydride (0.49 g, 60% dispersion, 12.3 mmol) in DMF (15 ml) was stirred at room temperature for 1 hour and then a solution of 1,3-bis-(methanesulfonyloxy) butane (1.37 g, 5.58 mmol) in DMF (5 ml) was added. The mixture was heated to 90° C. for 6 hours and then poured into water after cooling. Ethyl acetate was added and the mixture was allowed to stand overnight. The precipitated solid was collected and dried to give 3.0 g (54%) of the desired product, Mp 173-175° C.

reactant | triiodophenol | 12.3 mmol, 5.78 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | sodium hydride | 12.3 mmol, 0.49 g | [H-].[Na+]
reactant | 1,3-bis-(methanesulfonyloxy) butane | 5.58 mmol, 1.37 g | CS(=O)(=O)OCCC(C)OS(=O)(=O)C | C6H14O6S2
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-Bis-(2,4,6-Triiodophenoxy)-butane | 3.0 g, 54% | IC1=C(OCCC(C)OC2=C(C=C(C=C2I)I)I)C(=CC(=C1)I)I | C16H12I6O2
